US07858800B2
2) Production of 4-iodo-1-phenyl-5-propyl-1H-[1,2,3]-triazole
1-Phenyl-5-propyl-4-trimethylsilanyl-1H-[1,2,3]-triazole (260 mg) prepared in the above 1) was dissolved in 5.0 ml of tetrahydrofuran, 389 mg of silver tetrafluoroborate and 507 mg of iodine were added thereto and the mixture was stirred at room temperature for one night. The reaction solution was filtered through Celite, a saturated aqueous solution of sodium thiosulfate was added to the filtrate and the solvent was evaporated in vacuo. Water was added to the residue, the mixture was extracted with ethyl acetate and the ethyl acetate layer washed with a saturated saline solution and dried over sodium sulfate. After the solvent was evaporated in vacuo, the residue was separated and purified by a silica gel column chromatography (hexane/ethyl acetate=2/1) to give 180 mg of the title compound as a white solid.

reactant | 1-Phenyl-5-propyl-4-trimethylsilanyl-1H-[1,2,3]-triazole | 260 mg | C1(=CC=CC=C1)N1N=NC(=C1CCC)[Si](C)(C)C | C14H21N3Si
reactant | iodine | 507 mg | II | I2
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
catalyst | silver tetrafluoroborate | 389 mg | F[B-](F)(F)F.[Ag+]
product | 4-iodo-1-phenyl-5-propyl-1H-[1,2,3]-triazole | 180 mg | IC=1N=NN(C1CCC)C1=CC=CC=C1 | C11H12IN3
